US06008243
A suspension of 10% Pd/C (wet DeGussa type, 15 mg) and N-(1(S)-benzyl-2-hydroxyethyl)-3(R)-[3-(biphenyl-4-yl)-1H-pyrrol-1-yl]succinamic acid benzyl ester (68 mg, 0.12 mmol) in EtOAc (5 mnL) was stirred under H2 for 20 hours. The catalyst was filtered onto Celite and rinsed with MeOH. The filtrate was concentrated under reduced pressure to give a yellow oil, which was purified via flash column chromatography with a 1% HOAc/2-5% MeOH/CH2Cl2 stepwise gradient elution to provide 47 mg (82%) of N-(1(S)-benzyl-2-hydroxyethyl)-3(R)-[3-(biphenyl-4-yl)-1H-pyrrol-1-yl]succinamic acid as a white solid. 1H NMR (CDCl3): δ 7.66-7.48 (m, 3H), 7.42 (t, 2H, J=7.2 Hz), 7.34-7.28 (m, 1H), 7.21-7.12 (m, 2H), 7.04-6.96 (m, 1H), 6.94 (bs, 1H), 6.68 (dd, 1H, J=2.5, 2.5 Hz), 6.55 (dd, 1H, J=1.6, 1.6 Hz), 5.78 (bd, 1H, J=7.5Hz), 4.90 (t, 1H, J=7.2 Hz), 4.36-4.02 (m, 1H), 3.68 (dd, 1H, J=3.4, 11.2 Hz), 3.50 (dd, 1H, J=5.3, 9.0 Hz), 3.31 (dd, J=5.9, 7.4 Hz), 3.12 (dd, 1H, J=7.2, 17.1 Hz), 2.74 (ddd, 1H, J=6.2, 14.3 14.3 Hz), 2.68 (ddd, J=8.7, 14.0, 14.3 Hz). IR (film): 3387, 3028, 2931, 1715, 1660, 1532, 1494, 1204, 702, 698 cm-1. HRFABMS: Calculated for C29H28N2O4Cs (M+Cs+): 643.1209. Found: 643.1185. Anal. calculated for C29H28N2O4.0.1 CHCl3.0.35 H2O: C, 71.80; H, 5.96; N, 5.75. Found: C, 71.92; H, 5.87; N, 5.77.

reactant | N-(1(S)-benzyl-2-hydroxyethyl)-3(R)-[3-(biphenyl-4-yl)-1H-pyrrol-1-yl]succinamic acid benzyl ester | 0.12 mmol, 68 mg | C(C1=CC=CC=C1)OC(C[C@H](C(=O)N[C@H](CO)CC1=CC=CC=C1)N1C=C(C=C1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C36H34N2O4
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 15 mg | [Pd] | Pd
product | N-(1(S)-benzyl-2-hydroxyethyl)-3(R)-[3-(biphenyl-4-yl)-1H-pyrrol-1-yl]succinamic acid | 47 mg, 82% | C(C1=CC=CC=C1)[C@@H](CO)NC([C@@H](CC(=O)O)N1C=C(C=C1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C29H28N2O4
